US06927222B2
D) (3,4-Difluoro-phenyl)-piperidin-4yl-amine
Was synthesised in the same way as (A) from 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (3.59 g, 18.0 mmol), 3,4-difluoro-phenylamine (1.16 g, 9.0 mmol) and sodium triacetoxyborohydride (5.34 g, 25.2 mmol) in dichloromethane (40 ml) and acetic acid (3.1 ml). The deprotection was run in dichloromethane (37 ml) and trifluoro acetic acid (18 ml). Yield 1.26 g, 66%

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 18.0 mmol, 3.59 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 3,4-difluoro-phenylamine | 9.0 mmol, 1.16 g | FC=1C=C(C=CC1F)N | C6H5F2N
reactant | sodium triacetoxyborohydride | 25.2 mmol, 5.34 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | acetic acid | 3.1 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 37 ml | ClCCl | CH2Cl2
solvent | trifluoro acetic acid | 18 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3,4-Difluoro-phenyl)-piperidin-4yl-amine | FC=1C=C(C=CC1F)NC1CCNCC1 | C11H14F2N2
